US08193202B2
A. Preparation of 1-tert-butyl 4-methyl 4-((benzyloxycarbonylamino)-methyl)piperidine-1,4-dicarboxylate.
To a solution of 1-tert-butyl 4-methyl 4-(aminomethyl)piperidine-1,4-dicarboxylate (0.300 g, 1.1 mmol) and N,N-diisopropylethylamine (0.229 mL, 1.32 mmol) in CH2Cl2 (5 mL) at 0° C. was added benzyl chloroformate. The reaction was stirred overnight, and then diluted with CH2Cl2 and washed with H2O and brine, dried over MgSO4, and concentrated under vacuum. The residue was purified by silica gel chromatography (EtOAc:hexanes gradient) to give the title compound in 82% yield. MS (ES+) [M+H]+=407.

reactant | 1-tert-butyl 4-methyl 4-(aminomethyl)piperidine-1,4-dicarboxylate | 1.1 mmol, 0.300 g | NCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C13H24N2O4
reactant | N,N-diisopropylethylamine | 1.32 mmol, 0.229 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-butyl 4-methyl 4-((benzyloxycarbonylamino)-methyl)piperidine-1,4-dicarboxylate | 82% yield | C(C1=CC=CC=C1)OC(=O)NCC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C21H30N2O6
